US07498337B2
methyl 2-chloro-5-(2-fluorophenyl)-4-methyl-1H-pyrrole-3-carboxylate
To a solution of methyl 2-cyano-4-(2-fluorophenyl)-3-methyl-4-oxobutanoate (31.0 g) in ethyl acetate (30 mL) was added 4 mol/L hydrogen chloride-ethyl acetate solution (150 mL), and the mixture was stirred at room temperature for 2 days. Water (200 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed twice with water, and then washed with saturated aqueous sodium hydrogencarbonate solution, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate to give the title compound as white crystals (yield 19.3 g, 58%).

reactant | methyl 2-cyano-4-(2-fluorophenyl)-3-methyl-4-oxobutanoate | 31.0 g | C(#N)C(C(=O)OC)C(C(=O)C1=C(C=CC=C1)F)C | C13H12FNO3
reactant | hydrogen chloride-ethyl acetate | 4 mol/L, 150 mL | C(C)(=O)OCC.Cl
reactant | Water | 200 mL | O | H2O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | methyl 2-chloro-5-(2-fluorophenyl)-4-methyl-1H-pyrrole-3-carboxylate | yield 19.3 g, 58% | ClC=1NC(=C(C1C(=O)OC)C)C1=C(C=CC=C1)F | C13H11ClFNO2
